US06670373B1
In a fashion similar to that for preparation 14, 2,4-difluorobenzaldehyde oxime (2.52 g, 16.1 mmol), N-chlorosuccinimide (2.21 g, 16.5 mmol), and dimethyl formamide (25 ml) gave 2,4-difluorobenzoyl chloride oxime (2.11 g, 68%) after chromatography (silica gel, hexanes/ether).

reactant | 2,4-difluorobenzaldehyde oxime | 16.1 mmol, 2.52 g | FC1=C(C=NO)C=CC(=C1)F | C7H5F2NO
reactant | N-chlorosuccinimide | 16.5 mmol, 2.21 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,4-difluorobenzoyl chloride oxime | 2.11 g, 68% | FC1=C(C(Cl)=NO)C=CC(=C1)F | C7H4ClF2NO
